US07179823B1
Sodium hydride (60%, oily, 2.20 g) was added to a mixture of methyl 4-phenylpyrrole-3-carboxylate (11.10 g), 3,5-dibenzyloxybenzyl methanesulfonate (21.9 g) and N,N-dimethylformamide (200 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and methyl 1-(3,5-dibenzyloxybenzyl)-4-phenylpyrrole-3-carboxylate (26.4 g, yield: 95%) was obtained as an oily substance from the fraction eluted with tetrahydrofuran-hexane (1:2, volume ratio).

reactant | Sodium hydride | 2.20 g | [H-].[Na+]
reactant | methyl 4-phenylpyrrole-3-carboxylate | 11.10 g | C1(=CC=CC=C1)C=1C(=CNC1)C(=O)OC | C12H11NO2
reactant | 3,5-dibenzyloxybenzyl methanesulfonate | 21.9 g | CS(=O)(=O)OCC1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H22O5S
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 1-(3,5-dibenzyloxybenzyl)-4-phenylpyrrole-3-carboxylate | 26.4 g, yield: 95% | C(C1=CC=CC=C1)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C33H29NO4
